US04902698
4-[5-(4-Methoxybenzenesulphonamido)pyrid-2-yl]butanoic acid
A solution of 4-methoxybenzenesulphonyl chloride (2.06 g) and 4-(5-aminopyrid-2-yl)butanoic acid (1.8 g) in pyridine (15 ml) was allowed to stand at room temperature for 18 hours. The solvent was removed and the residue was dissolved in water and treated with dilute hydrochloric acid to give a solution at pH 4.5. The resulting precipitate was collected and recrystallised from ethanol to give the title compound (1.96 g) as prisms. m.p. 129°-130° C.

reactant | 4-methoxybenzenesulphonyl chloride | 2.06 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 4-(5-aminopyrid-2-yl)butanoic acid | 1.8 g | NC=1C=CC(=NC1)CCCC(=O)O | C9H12N2O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-[5-(4-Methoxybenzenesulphonamido)pyrid-2-yl]butanoic acid | 1.96 g | COC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC(=NC1)CCCC(=O)O | C16H18N2O5S
